US05286736
6-[4-(4-Methylbenzenesulphonylamino)-phenyl]-6-(3-pyridyl)-hex-5-enoic acid
A mixture of 3 g of methyl 6-(4-aminophenyl)-6-(3-pyridyl)-hex-5-enoate, 1.9 g of 4-methylbenzene-sulphonic acid chloride and 5 ml of triethylamine in 100 ml of methylene chloride is stirred for one hour at ambient temperature. The organic phase is washed with water, evaporated down and the residue is purified pyer a silica gel column with ethyl acetate. The product fraction is evaporated down and heated in a mixture of 50 ml of ethanol and 3 ml of 10N sodium hydroxide solution to 50° C. for one hour. The reaction mixture is diluted with water and neutralised by the addition of citric acid. The agueous phase is extracted with ethyl acetate, dried and evaporated down. The residue is recrystallised from ethyl acetate/diisopropylether.

reactant | methyl 6-(4-aminophenyl)-6-(3-pyridyl)-hex-5-enoate | 3 g | NC1=CC=C(C=C1)C(=CCCCC(=O)OC)C=1C=NC=CC1 | C18H20N2O2
reactant | 4-methylbenzene-sulphonic acid chloride | 1.9 g | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
reactant | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 6-[4-(4-Methylbenzenesulphonylamino)-phenyl]-6-(3-pyridyl)-hex-5-enoic acid | CC1=CC=C(C=C1)S(=O)(=O)NC1=CC=C(C=C1)C(=CCCCC(=O)O)C=1C=NC=CC1 | C24H24N2O4S
